US08466289B2
Synthesis of Intermediate Trifluoro-methanesulfonic acid 6-methyl-8-nitro-5-oxo-2,3-dihydro-5H-thiazolo[3,2-a]pyridin-7-yl ester (I-19c)
Triflic anhydride (3.4 g, 12.06 mmol) was added to a stirred solution of 7-hydroxy-6-methyl-8-nitro-2,3-dihydro-thiazolo[3,2-a]pyridin-5-one (2.5 g, 10.96 mmol) and TEA (2.3 mL, 16.44 mmol) in DCM (20 mL) at −70° C. The resulting mixture was stirred at −70° C. to −50° C. for 2 hours. The reaction mixture was monitored by TLC (50% ethylacetate in hexane). The reaction mixture was diluted DCM and quenched with bicarbonate solution. The organic layer was washed with brine solution, dried over Na2SO4 and concentrated. Purification by column chromatography on silica gel (30% ethylacetate in hexane) afforded 0.9 g of the product (38% yield).

reactant | Triflic anhydride | 12.06 mmol, 3.4 g | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | 7-hydroxy-6-methyl-8-nitro-2,3-dihydro-thiazolo[3,2-a]pyridin-5-one | 10.96 mmol, 2.5 g | OC=1C(=C2N(C(C1C)=O)CCS2)[N+](=O)[O-] | C8H8N2O4S
reactant | ethylacetate | C(C)OC(C)=O | C4H8O2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | hexane | CCCCCC | C6H14
product | Trifluoro-methanesulfonic acid 6-methyl-8-nitro-5-oxo-2,3-dihydro-5H-thiazolo[3,2-a]pyridin-7-yl ester | 0.9 g, 38% yield | CC1=C(C(=C2N(C1=O)CCS2)[N+](=O)[O-])OS(=O)(=O)C(F)(F)F | C9H7F3N2O6S2
